US06342523B1
Synthesis of α-(4-n-Butanoyl-3,5-di-tert-butylphenyl)-N-tert-butylnitrone
To a solution of 4-n-butanoyl-3,5-di-tert-butylbenzaldehyde (9.63 g, 0.032 mol) in benzene (200 mL) was added tert-butylhydroxylamine (3.52 g, 0.040 mol) and p-toluenesulfonic acid (0.100 g). Using a Dean-Stark trap, the resulting solution was refluxed until no more aldehyde was detected by TLC (Rf =0.30 for product and 0.91 for starting material using 3:1 hexanes/EtOAc). The solvent was removed in vacuo and the residue was crystallized from EtOAc and hexanes to afford the titled compound (50.2% yield) as a white solid, m.p. 216.9-236.5° C.

reactant | 4-n-butanoyl-3,5-di-tert-butylbenzaldehyde | 0.032 mol, 9.63 g | C(CCC)(=O)C1=C(C=C(C=O)C=C1C(C)(C)C)C(C)(C)C | C19H28O2
reactant | tert-butylhydroxylamine | 0.040 mol, 3.52 g | C(C)(C)(C)NO | C4H11NO
reactant | p-toluenesulfonic acid | 0.100 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
product | α-(4-n-Butanoyl-3,5-di-tert-butylphenyl)-N-tert-butylnitrone | 50.2% yield | C(CCC)(=O)C1=C(C=C(C=C1C(C)(C)C)C=[N+]([O-])C(C)(C)C)C(C)(C)C | C23H37NO2
